US07160905B2
3-Methylsulfonyl-5-(2-oxopyrrolidin-1-yl)benzoic acid (D19)
Methyl 3-methylsulfonyl-5-(2-oxopyrrolidin-1-yl)-benzoate (D18) (0.717 g) was suspended in dioxan (3.6 ml) and treated with a solution of lithium hydroxide monohydrate (0.153 g) in water (3.6 ml). The mixture was stirred for 2 h at room temperature and a clear solution was formed. The pH was adjusted to ˜4 by addition of Amberlyst-15 H+ resin. The resin was removed by filtration and washed well with dioxan. The combined filtrates were evaporated and the residue dried. Trituration with ether gave D19 (0.51 g) as a pale cream solid.

reactant | Methyl 3-methylsulfonyl-5-(2-oxopyrrolidin-1-yl)-benzoate | 0.717 g | CS(=O)(=O)C=1C=C(C(=O)OC)C=C(C1)N1C(CCC1)=O | C13H15NO5S
reactant | lithium hydroxide monohydrate | 0.153 g | O.[OH-].[Li+]
solvent | dioxan | 3.6 ml | O1CCOCC1 | C4H8O2
solvent | water | 3.6 ml | O | H2O
product | 3-Methylsulfonyl-5-(2-oxopyrrolidin-1-yl)benzoic acid | CS(=O)(=O)C=1C=C(C(=O)O)C=C(C1)N1C(CCC1)=O | C12H13NO5S
